Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Bactrim
 
Attending: ___.
 
Chief Complaint:
Hyperkalemia
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ year old female with a history of CKD with nephrotic 
syndrome, CREST syndrome and chronic hyperkalemia who was sent 
for delerium and hyperkalemia. Per NH report she was answering 
questions inappropriately. Routine labs done on ___ also 
showed a K of 5.7. They had recently increased her daily 
kayexelate to 15g as she has a long history of chronic 
hyperkalemia. She does note that she has had a decreased 
appetite recently but has been drinking adequate fluids.  

In the ED, initial vs were: 96, 64, 124/66, 98% RA. Her mental 
status was normal on eval there. Her K was 5.4. An EKG showed no 
change from prior. She received 30g of kayexelate and 1L NS.  

Currently only complaining of a headache on her left side, which 
mildly radiates down her neck. otherwise she had a large dinner 
and feels better.

 
Past Medical History:
Type 2 Diabetes
CKD with nephrotic range proteinuria (Cr ~ 2.8)
benign Hypertension
Biliary cirrhosis
Crest syndrome
GERD
Panic disorder
s/p radioiodine ablative therapy for hyperthyroidism
depression
asthma with COPD
peripheral neuropathy
nephrotic syndrome
ischemic cardiomyopathy--EF ___ s/p ICD
s/p coronary stents to RCA
h/o low back pain
nausea
iron deficiency anemia
vitamin D deficiency
h/o R leg DVT
seizure disorder
hypothyroidism
Unstented 90% L circ
 
Social History:
___
Family History:
Non-Contributory
 
Physical Exam:
ROS:
GEN: - fevers, - Chills, - Weight Loss
EYES: - Photophobia, - Visual Changes
HEENT: - Oral/Gum bleeding
CARDIAC: - Chest Pain, - Palpitations, - Edema
GI: - Nausea, - Vomitting, - Diarhea, - Abdominal Pain, - 
Constipation, - Hematochezia, + 2 pillow Orthopnea (chronic)
PULM: - Dyspnea, - Cough, - Hemoptysis
HEME: - Bleeding, - Lymphadenopathy
GU: - Dysuria, - hematuria, - Incontinence
SKIN: - Rash
ENDO: - Heat/Cold Intolerance
MSK: - Myalgia, - Arthralgia, - Back Pain
NEURO: - Numbness, - Weakness, - Vertigo, + Headache
 
PHYSICAL EXAM:
VSS: 97.5, 147/72, 65, 20, 100%
GEN: NAD
Pain: ___
HEENT: EOMI, MMM, - OP Lesions
PUL: CTA B/L
COR: RRR, S1/S2, - MRG
ABD: NT/ND, +BS, - CVAT
EXT: - CC, 1+ edema
NEURO: CAOx3, Non-Focal
 
Pertinent Results:
___ 07:47AM BLOOD WBC-5.0 RBC-3.48* Hgb-10.4* Hct-32.0* 
MCV-92 MCH-30.0 MCHC-32.6 RDW-14.3 Plt ___
___ 06:20PM BLOOD Neuts-49.5* ___ Monos-5.9 
Eos-4.9* Baso-0.4
___ 07:47AM BLOOD ___ PTT-32.5 ___
___ 07:47AM BLOOD Glucose-90 UreaN-77* Creat-2.8* Na-139 
K-4.6 Cl-106 HCO3-22 AnGap-16
___ 06:20PM BLOOD Glucose-280* UreaN-81* Creat-3.0* Na-135 
K-5.3* Cl-102 HCO3-23 AnGap-15
___ 07:47AM BLOOD Calcium-8.1* Phos-6.3* Mg-2.6
___ 05:49AM URINE Color-Straw Appear-Hazy Sp ___
___ 05:49AM URINE Blood-NEG Nitrite-NEG Protein-100 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-LG
___ 05:49AM URINE RBC-3* WBC-35* Bacteri-FEW Yeast-NONE 
Epi-0
___ 05:49AM URINE Hours-RANDOM UreaN-404 Creat-34 Na-83
___ 05:49AM URINE Osmolal-356

___ 5:49 am URINE      Source: Catheter. 

   URINE CULTURE (Pending): 

CT L-SPINE W/O CONTRAST Study Date of ___ 3:25 ___ 
IMPRESSION: 
1. Severe degenerative changes at multiple levels in the lumbar 
spine. 
Retrolisthesis and posterior disc protrusion at L5-S1 result in 
moderate 
narrowing of the spinal canal at this level. 
2. Degenerative disease at other levels as above 
3. Calcified, atrophic pancreas. 
 

 
Brief Hospital Course:
1. Hyperkalemia
- Resolved with hydration and kayexelate
- Maintain on kayexelate and lasix

2. Acute Renal Failure on CKD Stage IV
- Renal Dosing
- Mild Hydration

3. Benign Hypertension
- lasix
- Hydralazine
- Metoprolol
- Doxazosin
- Isosorbide
- Clonidine Patch, increased dose to 0.3 as patient persistently 
hypertensive

4. Type 2 Diabetes Uncontrolled with Complications
- Lantus, ISS
- patient would likely benefit from improved glucose control, 
would reccomend consideration of uptitration of basal insulin as 
per patient's PCP

5. Delerium
- Resolved Spontaneously, patient AAO x3 on discharge

6. Epilepsy
- Dilantin

7. Depression
- ___ be cause of delerium

8. CAD Native Vessle
- Aspirin, Plavix, Metoprolol, zocor

9. Headache
- Tylenol, d/c Percoset given that patient was complaining of 
nausea

10. Asymptomatic UTI
- txt with Cefpodoxime as Cipro contraindicated given patient's 
history of borderline prolonged QTc

 
Medications on Admission:
Heparin 5000 units SQ TID  
Clonidine patch 0.2 mg q TH  
Calcium carbonate 500 BID  
Vit D daily  
Plavix 75 daily  
Isosorbide mononitrate 90 daily  
Doxazosin 8 mg qhs  
Percocet ___ tabs PO q4 PRN  
Metoprolol 50 mg q12  
Fluticasone inhaler 2 puffs BID  
Phenytoin 150 mg QAM, 300mg PO qHS  
Aspirin 81 mg daily  
Omeprazole 20 mg BID  
Hydralazine 25 BID, then 50 at MN  
Lantus 5 units QPM  
HISS  
___ 75mg PO daily  
Simvastatin 10mg PO daily  
Lasix 20mg PO BID  
Kayexelate 15mg PO daily
 
Discharge Medications:
1. Heparin (Porcine) 5,000 unit/mL Solution Sig: One (1)  
Injection TID (3 times a day).  
2. Calcium Carbonate 500 mg Tablet, Chewable Sig: One (1) 
Tablet, Chewable PO BID (2 times a day).  
3. Cholecalciferol (Vitamin D3) 400 unit Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
4. Clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
5. Doxazosin 4 mg Tablet Sig: Two (2) Tablet PO HS (at bedtime). 
 
6. Tylenol ___ mg Tablet Sig: Two (2) Tablet PO every four (4) 
hours as needed for pain.  
7. Metoprolol Succinate 100 mg Tablet Sustained Release 24 hr 
Sig: One (1) Tablet Sustained Release 24 hr PO once a day: 
please hold for SBP < 100 and HR < 55.  
8. Isosorbide Mononitrate 60 mg Tablet Sustained Release 24 hr 
Sig: 1.5 Tablet Sustained Release 24 hrs PO once a day.  
9. Clonidine 0.3 mg/24 hr Patch Weekly Sig: One (1) patch 
Transdermal ___.  
10. Fluticasone 110 mcg/Actuation Aerosol Sig: Two (2) Puff 
Inhalation BID (2 times a day).  
11. Phenytoin Sodium Extended 100 mg Capsule Sig: 1.5 Capsules 
PO QAM (once a day (in the morning)).  
12. Phenytoin Sodium Extended 100 mg Capsule Sig: Three (3) 
Capsule PO QPM (once a day (in the evening)).  
13. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
14. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO twice a day.  
15. Hydralazine 25 mg Tablet Sig: One (1) Tablet PO BID (2 times 
a day).  
16. Hydralazine 25 mg Tablet Sig: Two (2) Tablet PO QHS (once a 
day (at bedtime)).  
17. Bupropion 75 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
18. Simvastatin 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
19. Furosemide 20 mg Tablet Sig: One (1) Tablet PO BID (2 times 
a day).  
20. Sodium Polystyrene Sulfonate 15 g/60 mL Suspension Sig: One 
(1)  PO DAILY (Daily).  
21. Lantus 100 unit/mL Solution Sig: Five (5) Units Subcutaneous 
qPM.  
22. Cefpodoxime 100 mg Tablet Sig: One (1) Tablet PO Q24H (every 
24 hours) for 2 days.  
23. Insulin Regular Human 300 unit/3 mL Insulin Pen Sig: as per 
sliding scale  Subcutaneous qachs.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary: hyperkalemia/UTI
.
Secondary:
chronic renal insufficiency baseline 2.7-3.0
diabetes
HTN
biliary cirrhosis
crest syndrome
GERD
s/p nuclear therapy for hyperthyroidism
depression
asthma with COPD
peripheral neuropathy
nephrotic syndrome
ischemic cardiomyopathy - EF ___
cad s/p stnets to RCA
low back pain
iron deficiency anemia
vit D deficiency
h/o right leg DVT
h/o hypocalcemia
s/p PCM
seizure disorder
hypothyroidism
 
Discharge Condition:
afebrile, hypertensive to 170/78, clinically stable, K 5.1, Cr 3
 
Discharge Instructions:
You were admitted to the hospital with hyperkalemia without any 
associated EKG changes. You were treated with an extra dose of 
kayexelate and IV fluids. You potassium has improved.  It is 
important to remember that given your chronic renal failure, we 
can tolerate a slightly higher potassium than we would in 
someone without renal failure.  You should continue to follow up 
with your nephrologist and your primary care doctor regularly. 
It is important that you keep yourself well hydrated especially 
because the kayexelate that you take to keep your potassium down 
gives you diarrhea and makes you lose water.  As we have noted 
that you were persistently hypertensive during your admission we 
increased the dose of your clonidine patch. You should continue 
to titrate your anti-hypertensives as per your primary care 
physician.  You also were noted to have an asymptomatic UTI for 
which you were treated with Cefpodoxime. You will complete an 
additional two day course for this at rehab. You also underwent 
a CT of your spine to evaluate your incontinence which 
demonstrated severe degenerative disc disease but no evidence of 
cord compression or tumor. 
.
You should return to the hospital if you experience potassium 
greater than 6 with EKG changes, otherwise you can likely be 
managed by contacting your nephrologist. You should return to 
the ER if you experience any worsening shortness of breath, 
chest pain, high fevers or uncontrolled nausea and vomiting.
.
It has been a pleasure taking care of you at ___ 
___.
 
Followup Instructions:
___